US07456200B2
2-Methyl-isonicotinic acid hydrazide
2-Methyl-isonicotinic acid methyl ester (316.5 mg, 2.093 mmol) was dissolved in MEOH (7 mL) under Argon and hydrazine monohydrate 98% (1 mL, 20.93 mmol) was added. The reaction was allowed to stir under Argon at room temperature for eighteen hours. The reaction was concentrated to give the title compound (271.9 mg, 86%) as a white solid. 1H NMR CDCl3 δ (ppm): 8.59 (d, 1H), 7.50 (s, 1H), 7.38 (d, 1H), 3.09 (br. s, 3H), 2.60 (s, 3H).

reactant | 2-Methyl-isonicotinic acid methyl ester | 2.093 mmol, 316.5 mg | COC(C1=CC(=NC=C1)C)=O | C8H9NO2
reactant | hydrazine monohydrate | 20.93 mmol, 1 mL | O.NN
product | 2-Methyl-isonicotinic acid hydrazide | 271.9 mg, 86% | CC=1C=C(C(=O)NN)C=CN1 | C7H9N3O
